US05545741
1-bromo-5-nitro-pentane-2-one
80.0 g (0.61 mole) of 1-nitro-pentane-4-one are dissolved in 250 ml of anhydrous methanol, whereupon 31.5 ml (0.61 mole) of bromine are quickly added under cooling with ice. The reaction mixture is stirred for a further 2 hours at a rate that the internal temperature should not exceed 40° C. To the reaction mixture 250 ml of water are added, the reaction mixture is stirred at room temperature overnight. Next morning the solution is extracted three times with 300 ml of ether each, the etheral solution is washed with a 10 % sodium carbonate solution free of acid, whereupon it is washed three times with 200 ml of water each and 200 ml of a saturated sodium chloride solution, dried over calcium chloride and evaporated. The dry residue is subjected to chromatogaphy on a silica column and eluted with a 3:1 mixture of n-hexane and ethyl acetate. Thus 70.4 g of the desired compound are obtained in the form of a faint yellow liquid, yield 55%. Rf =0.30. IR(film) :2950, 1720, 640 cm-1.

reactant | 1-nitro-pentane-4-one | 0.61 mole, 80.0 g | [N+](=O)([O-])CCCC(C)=O | C5H9NO3
reactant | bromine | 0.61 mole, 31.5 ml | BrBr | Br2
reactant | water | 250 ml | O | H2O
solvent | methanol | 250 ml | CO | CH4O
product | 1-bromo-5-nitro-pentane-2-one | 70.4 g, yield 55% | BrCC(CCC[N+](=O)[O-])=O | C5H8BrNO3
